US07705053B2
Production of 3-N-(2,3-dichlorophenyl)-4-methoxyisophthalamide (Compound 1-3-2)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2,3-dichloroaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2,3-dichloroaniline | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
product | 3-N-(2,3-dichlorophenyl)-4-methoxyisophthalamide | ClC1=C(C=CC=C1Cl)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C15H12Cl2N2O3
